US04178279
(15) 4-Amino-1,2,2,6,6-pentamethyl-piperidine
750 Parts of 4-benzoylamino-1,2,2,6,6-pentamethylpiperidine are dissolved in 1000 parts of concentrated hydrochloric acid and the solution is boiled under reflux for 10 hours. Sodium hydroxide solution is added after cooling until the reaction is alkaline, and the mixture is repeatedly extracted with methylene chloride. The residue left after evaporation of methylene chloride is distilled under vacuum; 300 parts of 1,2,2,6,6-pentamethyl-4-amino-piperidine boiling at 98° C./15 Torr are thereby distilled over.

reactant | 4-benzoylamino-1,2,2,6,6-pentamethylpiperidine | C(C1=CC=CC=C1)(=O)NC1CC(N(C(C1)(C)C)C)(C)C | C17H26N2O
reactant | Sodium hydroxide | [OH-].[Na+]
solvent | hydrochloric acid | Cl | ClH
product | 4-Amino-1,2,2,6,6-pentamethyl-piperidine | NC1CC(N(C(C1)(C)C)C)(C)C | C10H22N2
